US07151196B2
A solution of 2-(2-methoxy-5-methyl-6-oxo-6,7,8,9-tetrahydro-8aH-fluoren-8a-yl)ethyl methanesulfonate (49.7 mg, 0.142 mmol) in acetone (2.0 mL) was treated with sodium iodide (85 mg, 0.57 mmol) and the resulting mixture was stirred and heated in an oil bath at 60° C. for 16 hours. After cooling, the mixture was diluted with acetone (2 mL) and filtered through a 0.45 nm Acrodisc filter. The filtrate was evaporated under vacuum and the residue in CH2Cl2 (3 mL) was re-filtered. The filtrate was purified by chromatography on a Biotage Flash 12M KP-Sil column (12 mm×15 cm) which was eluted with 4:1 hexanes-EtOAc, collecting 6 mL fractions every 30 seconds. Fractions 9–11 gave 9a-(2-iodoethyl)-7-methoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one as an oil.

reactant | 2-(2-methoxy-5-methyl-6-oxo-6,7,8,9-tetrahydro-8aH-fluoren-8a-yl)ethyl methanesulfonate | 0.142 mmol, 49.7 mg | CS(=O)(=O)OCCC12CCC(C(=C1C=1C=CC(=CC1C2)OC)C)=O | C18H22O5S
reactant | sodium iodide | 0.57 mmol, 85 mg | [I-].[Na+]
solvent | acetone | 2.0 mL | CC(=O)C | C3H6O
solvent | acetone | 2 mL | CC(=O)C | C3H6O
product | 9a-(2-iodoethyl)-7-methoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | ICCC12CC3=CC(=CC=C3C2=C(C(CC1)=O)C)OC | C17H19IO2
